US04994452
8-Hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride
8-Methoxy-1,2,3,4-tetrahydro-9-acridinamine (4.0 g) was dissolved in dichloromethane (76 ml). Boron tribromide in dichloromethane (15.0 ml of a 1.0M solution) was added, and the reaction mixture was stirred 1 hr and then concentrated under reduced pressure. The residue was dissolved in warm water (100 ml), concentrated hydrochloric acid (400 ml) was added and the solution was chilled overnight in the refrigerator. The salt was collected and recrystallized from methanol-ether to give 2.68 g (61%) of product, mp 270° C. (dec).

reactant | 8-Methoxy-1,2,3,4-tetrahydro-9-acridinamine | 4.0 g | COC=1C=CC=C2N=C3CCCCC3=C(C12)N | C14H16N2O
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 76 ml | ClCCl | CH2Cl2
product | 8-Hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride | 2.68 g, 61% | Cl.OC=1C=CC=C2N=C3CCCCC3=C(C12)N | InChI=1S/C13H14N2O.ClH/c14-13-8-4-1-2-5-9(8)15-10-6-3-7-11(16)12(10)13;/h3,6-7,16H,1-2,4-5H2,(H2,14,15);1H
